US07728030B2
(2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol
(2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol hydrochloride (1.6 g, 6.46 mmol) is stirred overnight in a mixture of 1N NaOH (12.92 mL) and ethyl acetate (20 mL). The organic phase is separated and the aqueous phase is washed twice with ethyl acetate. The combined organic extracts are washed with brine, dried over Na2SO4 and the solvent is evaporated. After purification of the residue by chromatography (silicagel, eluents: dichloromethane/methanol) 694 mg (50.9%) of the title compound as mixture of stereoisomers is obtained.

reactant | (2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol hydrochloride | 6.46 mmol, 1.6 g | Cl.N[C@H](C(O)C1=CC(=CC=C1)F)CC(C)C
solvent | NaOH | 1N, 12.92 mL | [OH-].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol | N[C@H](C(O)C1=CC(=CC=C1)F)CC(C)C | C12H18FNO
